US07547696B2
g.) 4-Methoxy-N-(4-methoxybenzoyl)-N-(6-(morpholin-4-yl)-4-benzylamino-3-cyanoquinolin-2-yl)benzamide
To the solution of 0.4 g of 2-amino-3-cyano-4-benzylamino-6-(morpholin-4-yl)quinoline in 2 mL of pyridine, 0.4 mL of 4-methoxybenzoyl chloride is added under stirring and cooling. The reaction mixture is stirred at 80° C. for 8 hours, and then poured onto 5 mL of ice-water. The precipitated material is filtered off, washed twice with 3 mL of water. After drying 0.53 g of the title compound is obtained, m.p.: 157° C.

reactant | 2-amino-3-cyano-4-benzylamino-6-(morpholin-4-yl)quinoline | 0.4 g | NC1=NC2=CC=C(C=C2C(=C1C#N)NCC1=CC=CC=C1)N1CCOCC1 | C21H21N5O
reactant | 4-methoxybenzoyl chloride | 0.4 mL | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 4-Methoxy-N-(4-methoxybenzoyl)-N-(6-(morpholin-4-yl)-4-benzylamino-3-cyanoquinolin-2-yl)benzamide | COC1=CC=C(C(=O)N(C2=NC3=CC=C(C=C3C(=C2C#N)NCC2=CC=CC=C2)N2CCOCC2)C(C2=CC=C(C=C2)OC)=O)C=C1 | C37H33N5O5
